US06586592B2
Step 1: Preparation of 4-fluoro-2-nitrophenyl 3-fluorophenyl Sulfide
To a mixture of 3-fluorothiophenol (8.36 g, 65.2 mmol) and potassium carbonate (9.81 g, 71.0 mmol) in 115 mL of dry acetonitrile is added 2,5-difluoronitrobenzene (7.00 mL, 64.55 mmol). The mixture is allowed to stir at room temperature for 2 hours. Water and CH2Cl2 (120 mL each) are added and the layers separated. The aqueous layer is extracted with CH2Cl2 (3×50 mL). The combined organics are dried over MgSO4, filtered, and concentrated to give a bright yellow solid. The solid is triturated with hexane to give 17.1 g (99%) of the title compound as a bright yellow solid.

reactant | 3-fluorothiophenol | 65.2 mmol, 8.36 g | FC=1C=C(C=CC1)S | C6H5FS
reactant | potassium carbonate | 71.0 mmol, 9.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoronitrobenzene | 64.55 mmol, 7.00 mL | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Water | O | H2O
solvent | acetonitrile | 115 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-nitrophenyl 3-fluorophenyl Sulfide | 17.1 g, 99% | FC=1C=C(C=CC1)SC1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H7F2NO2S
